US07300936B2
(2R)-2-{N-(4-Chlorobenzenesulfonyl)-N-[4-(3-piperidin-1-yl-propionylamino)-benzyl]-amino}-4-methyl-pentanoic acid amide (EXAMPLE 274):
To a solution of N-(4-{[N-((1S)-1-carbamoyl-3-methyl-butyl)-N-(4-chlorobenzenesulfonyl)amino]-methyl}-phenyl)-acrylamide (0.10 g, 0.22 mmol) in toluene (5 mL) was added piperidine (20 mg, 0.24 mmol). The mixture was heated at a gentle reflux for 1 h and then the solvent was removed in vacuo. Purification by flash chromatography (SiO2, 10% MeOH/CH2Cl2) afforded the title compound (105 mg) in 86% yield. MS (ESI), (M+H)+449.16, 1H NMR (CDCl3, 400 MHz) δ7.69 (d, 2H, J=8.0), 7.63 (d, 2H, J=8.0), 7.38 (d, 2H, J=8.0), 7.23 (d, 2H, J=8.0), 6.25 (br s, 1H), 5.35 (br s, 1H), 4.75 (d, 1H, Jab=16), 4.38 (d, 1H, jab=16), 3.25 (t, 1H, J=6.0), 2.65 (t, 2H, J=6.0), 2.56-2.44 (m, 6H), 1.95 (m, 1H), 1.68-1.45 (m, 8H), 0.98 (d, 3H, J=7.0), 0.94 (d, 3H, J=7.0)

reactant | N-(4-{[N-((1S)-1-carbamoyl-3-methyl-butyl)-N-(4-chlorobenzenesulfonyl)amino]-methyl}-phenyl)-acrylamide | 0.22 mmol, 0.10 g | C(N)(=O)[C@H](CC(C)C)N(S(=O)(=O)C1=CC=C(C=C1)Cl)CC1=CC=C(C=C1)NC(C=C)=O | C22H26ClN3O4S
reactant | piperidine | 0.24 mmol, 20 mg | N1CCCCC1 | C5H11N
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | (2R)-2-{N-(4-Chlorobenzenesulfonyl)-N-[4-(3-piperidin-1-yl-propionylamino)-benzyl]-amino}-4-methyl-pentanoic acid amide | 105 mg, 86% yield | ClC1=CC=C(C=C1)S(=O)(=O)N(CC1=CC=C(C=C1)NC(CCN1CCCCC1)=O)[C@@H](C(=O)N)CC(C)C | C27H37ClN4O4S
